US06867204B2
A solution of 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester (870 mg, 1.79 mmol) in ethanol (10 mL) was hydrogenated at atmospheric pressure over 10% Pd/C (75 mg) for 0.5 hour. The catalyst was removed by filtration, and the filtrate was concentrated. The crude material was purified by flash chromatography on silica gel (eluting with hexane-ethyl acetate; 1:1, v/v) to give 4-(6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester as a white foam (450 mg, 71%). MS: MH+=354.

reactant | 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester | 1.79 mmol, 870 mg | C(C1=CC=CC=C1)OC(=O)N1CCOC2=C1C=C(C=C2N2CCN(CC2)C(=O)OC(C)(C)C)Cl | C25H30ClN3O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 75 mg | [Pd] | Pd
product | 4-(6-chloro-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 450 mg, 71% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=2NCCOC21)Cl | C17H24ClN3O3
